US04248620
1-(2-chlorophenyl)-3-cyclohexyl-5-(1,2-dichloroethyl)imino-1,3-diazolidine-2,4-dione;
Similarly the reverse 1-position-3-position isomers of each of the above prepared compounds are prepared by using the corresponding position isomer of formula A as the starting material. For example, by using 1-methyl-3-(2-chlorophenyl)-5-(1,2-dichloroethyl)imino-1,3-diazolidine-2,4-dione in place of 1-(2-chlorophenyl-3-methyl-5-(1,2-dichloroethyl)imino-1,3-diazolidine the following compounds (as well as the other 1-3 positions isomers of each of the above products are prepared:

reactant | 1-methyl-3-(2-chlorophenyl)-5-(1,2-dichloroethyl)imino-1,3-diazolidine-2,4-dione | CN1C(N(C(C1=NC(CCl)Cl)=O)C1=C(C=CC=C1)Cl)=O | C12H10Cl3N3O2
reactant | 2-chlorophenyl-3-methyl-5-(1,2-dichloroethyl)imino-1,3-diazolidine | ClC1=C(C=CC=C1)N1CN(CC1=NC(CCl)Cl)C | C12H14Cl3N3
product | 1-(2-chlorophenyl)-3-cyclohexyl-5-(1,2-dichloroethyl)imino-1,3-diazolidine-2,4-dione | ClC1=C(C=CC=C1)N1C(N(C(C1=NC(CCl)Cl)=O)C1CCCCC1)=O | C17H18Cl3N3O2
